US07071175B1
BOC2O (0.6 g; 27.5 mmol) was added to a solution of triethyl amine (0.4 mL; 30.1 mmol), 4-(dimethylamino)pyridine (0.34 g; 27.8 mmol) and 2-(2-amino-thiazol-5-ylmethyl)-malonic acid diethyl ester (0.75 g; 27.5 mmol) in CH2Cl2 (5 mL) at 0° C. The reaction mixture was stirred at room temperature overnight. Additional BOC2O (0.15 g; 0.7 mmol) was added at 0° C., and the reaction mixture was stirred at room temperature for 1 hour. CH2Cl2 was added, and the organic phase was extracted with 0.3 M KHSO4 and brine). The organic phase was dried and concentrated to yield 0.78 g of the crude product. NMR indicated that approximately 40% of 2-(2-amino-thiazol-5-ylmethyl)-malonic acid diethyl ester remained. BOC2O (0.6 g; 27.5 mmol) was added to a solution of the crude product (0.78 g), triethyl amine (0.4 mL; 30.1 mmol), 4-(dimethylamino)pyridine (0.34 g; 27.8 mmol) in CH2Cl2 (5 mL) at 0° C. The reaction mixture was stirred at room temperature overnight and the work up procedure was repeated. The crude product (1 g) was purified by flash chromatography (Heptane/EtOAc; 1:1) and HPLC to afford 2-(2-tert-butoxycarbonylamino-thiazol-5-ylmethyl)-malonic acid diethyl ester (184 mg, 17.9%).

reactant | BOC2O | 27.5 mmol, 0.6 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | triethyl amine | 30.1 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(2-amino-thiazol-5-ylmethyl)-malonic acid diethyl ester | 27.5 mmol, 0.75 g | C(C)OC(C(C(=O)OCC)CC1=CN=C(S1)N)=O | C11H16N2O4S
reactant | BOC2O | 0.7 mmol, 0.15 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | BOC2O | 27.5 mmol, 0.6 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
reactant | triethyl amine | 30.1 mmol, 0.4 mL | C(C)N(CC)CC | C6H15N
catalyst | 4-(dimethylamino)pyridine | 27.8 mmol, 0.34 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-(dimethylamino)pyridine | 27.8 mmol, 0.34 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | CH2Cl2 | 5 mL | C(Cl)Cl | CH2Cl2
product | 2-(2-tert-butoxycarbonylamino-thiazol-5-ylmethyl)-malonic acid diethyl ester | 184 mg, 17.9% | C(C)OC(C(C(=O)OCC)CC1=CN=C(S1)NC(=O)OC(C)(C)C)=O | C16H24N2O6S
